Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1]/[C:2]([C:3][O:4][C:5]([H:6])[H:7])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1]/[C:2]([C:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.29744675448
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:4],1.85148612287
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10].[O:11][H:12],3.09440396583
[O:1][C@:2]([H:3])(/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],0.383247704491
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:9][O:10][C:11]([H:12])([H:13])[H:14].[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[O:9][O:10][C:11]([H:12])([H:13])[H:14],-1.82229572833
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])([C:10]([H:11])[H:12])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[C:13]([H:14])[H:15],3.34714012599
[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-7.2732032581100015
[C:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.690565090530001
[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-3.82294639937
[H:1][C:2][O:3]/[C:4]([H:5])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.90282537777
[H:1][O:2][C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-3.84260784821
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],3.60340865789
[C:3]([H:4])=[C:5]([C:6]#[C:7][H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[O:9][H:10],-6.21947826206
[C:1]#[C:2].[C:3]([H:4])([H:5])=[C:6]([H:7])[H:8]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],-2.58590312574
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],3.83563232787
[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C@@:3]([H:4])([O:5][C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],5.121417268459999
[O:1][O:2][C:3]([C:4][H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]#[C:4][H:5],3.3015476084500004
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]([H:3])([H:4])[C:5]#[C:6],7.4471677362
[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:3],4.48908392511
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:12]([H:13])[H:14],1.84815265209
[C:9]([H:10])([H:13])[H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:11][H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-4.588377176180001
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[H:13],1.81392166483
[C:1]#[C:2][O:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[O:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],5.23483580542
[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],0.12888653961
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:8]([H:9])[H:10].[H:7],4.85429664862
[H:1].[O:2]=[C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-1.87028533887
[C:3]([H:4])([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.77663458048
